* C:\Users\hilo90mhz\Documents\GitHub\electric_dump_load_controller_AC-DC\LTspice_sim\dump_load_sim.asc
V1 N001 0 15
V2 N006 0 PULSE(0 8 0 10n 10n 1.9u 3.33u)
M1 P001 Vgate 0 0 IPB039N10N3
L1 NC_01 NC_02 10µ Rser=3m
C1 Vbatt 0 10µ Rser=7m
R1 N007 P001 1
V3 Vgen 0 400
D2 NC_03 NC_04 RF1001NS2D
R2 Vbatt N008 0.01
R3 Vgen N007 5
R4 Vbatt 0 10
V4 Vload 0 PULSE(0 8 0 10n 10n 50u 120.33u)
M2 P002 Vload 0 0 IPB039N10N3
R5 Vbatt P002 10
XU1 NC_05 NC_06 NC_07 NC_08 NC_09 LT1013
XU2 NC_10 NC_11 NC_12 NC_13 NC_14 LT1013
V5 Vref 0 PULSE(0 15 0 2.5u 2.5u 1n 5u)
C2 P003 Vfb 10p
R6 Vbatt Vfb 100k
R7 Vfb 0 3.5k
XU3 N001 Vref Vc 0 0 0 VfbOut NC_15 LT1016
A1 0 0 0 0 0 0 0 0 BUF Vhigh=12 Vlow=0
V6 N002 0 6
C3 NC_21 0 1µ
XU4 N002 Vfb N001 N003 Vc LT1213
R8 Vfb P004 40k
C4 P004 Vc 10p
R9 Vbatt P003 10k
A2 VfbOut 0 0 0 0 0 Vgate 0 BUF Vhigh=12 Vlow=0 Ref=1.5
D1 N007 N008 D
V7 N003 0 -0.2
.model D D
.lib C:\Users\hilo90mhz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hilo90mhz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.5m startup
.lib LTC.lib
.backanno
.end
